US05559111
n) 2-Benzyloxy-4-tert-butyl-benzoic acid benzyl ester
A mixture of 5 g of 2-hydroxy-4-tert-butyl-benzoic acid, 9.1 ml of benzyl bromide, 17 g of caesium carbonate, 0.3 g of sodium iodide and 500 ml of acetone is stirred for 20 hours under reflux and then filtered and the filtrate is concentrated by evaporation. The residue is partitioned between diethyl ether and water, the organic phases are concentrated by evaporation and the residue is purified by means of FC (1000 g of silica gel, dichloromethane/hexane=1:1). Title compound: Rf (dichloromethane/hexane=1:1)=0.47.

reactant | 2-hydroxy-4-tert-butyl-benzoic acid | 5 g | OC1=C(C(=O)O)C=CC(=C1)C(C)(C)C | C11H14O3
reactant | benzyl bromide | 9.1 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | caesium carbonate | 17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 0.3 g | [I-].[Na+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 2-Benzyloxy-4-tert-butyl-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=C(C=C1)C(C)(C)C)OCC1=CC=CC=C1)=O | C25H26O3
